US08227504B2
(2S,3R)-3-Fluoro-N-{2-methyl-4-[3-(2-methyl-pyrrolidin-1-yl-methyl)-pyrrolidin-1-yl]-phenyl}-benzamide
The title compound was prepared in a manner substantially the same as example 20 by coupling (2S,3R)-2-methyl-4-[3-(2-methyl-pyrrolidin-1-yl-methyl)-pyrrolidin-1-yl]-phenylamine with 3-fluoro-benzoyl chloride in 39% yield.

reactant | (2S,3R)-2-methyl-4-[3-(2-methyl-pyrrolidin-1-yl-methyl)-pyrrolidin-1-yl]-phenylamine | CC1=C(C=CC(=C1)N1C[C@H](CC1)CN1[C@H](CCC1)C)N | C17H27N3
reactant | 3-fluoro-benzoyl chloride | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
product | (2S,3R)-3-Fluoro-N-{2-methyl-4-[3-(2-methyl-pyrrolidin-1-yl-methyl)-pyrrolidin-1-yl]-phenyl}-benzamide | 39% yield | FC=1C=C(C(=O)NC2=C(C=C(C=C2)N2C[C@H](CC2)CN2[C@H](CCC2)C)C)C=CC1 | C24H30FN3O
